US05719104
Step C: Preparation of 2-(5-benzyloxy-4-chloro-2-fluorophenyl)-6-chloro-5,6,7,8-tetrahydro-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione
A mixture of 212 mg (0.523 mmol) of 2-(5-benzyloxy-4-chloro-2-fluorophenyl)-5,6,7,8-tetrahydro-6-hydroxy-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione (0.523 mmol), 76 μL of CCl4 (0.784 mmol), and 206 mg of triphenylphosphine (0.784 mmol) in 8 mL of dichloromethane was warmed under reflux for 2h. The mixture was then concentrated under reduced pressure. The crude product was purified by flash chromatography over silica gel, eluting with a 1: 1 v:v mixture of ethyl acetate and n-hexane to give 200 mg of the title product of Step C, a compound of the invention, as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 2.3 (m, 2H), 3.5 (m, 2H), 3.9 (m, 2H), 4.4 (m, 1H), 5.1 (s, 2H), 7.0 (d, 1H), 7.4 (m, 6H).

reactant | 2-(5-benzyloxy-4-chloro-2-fluorophenyl)-5,6,7,8-tetrahydro-6-hydroxy-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione | 0.523 mmol, 212 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)N1C(N2N(CCC(C2)O)C1=O)=O)F)Cl | C19H17ClFN3O4
reactant | CCl4 | 0.784 mmol, 76 μL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 0.784 mmol, 206 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-(5-benzyloxy-4-chloro-2-fluorophenyl)-6-chloro-5,6,7,8-tetrahydro-1H-[1,2,4]triazolo[1,2-α]pyridazine-1,3(2H)-dione | 200 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)N1C(N2N(CCC(C2)Cl)C1=O)=O)F)Cl | C19H16Cl2FN3O3
